US07342127B2
A solution of bis(3-isopropyl-4-methoxyphenyl)iodonium tetrafluroborate (1.2 g , 2.3 mmol) and copper powder (192 mg, 3.01 mmol) in dichloromethane was stirred at room temperature. After 15 minutes 2,6-dibromo-3-trifluoromethyl-4-nitrophenol of Part 11A (550 mg, 1.51 mmol) and Et3N (304 mg, 3.01 mmol) was added. The reaction was heated at reflux for three days. The reaction was monitored by TLC (n-heptane/EtOAc 65:35) and when complete the reaction mixture was filtrated and concentrated. The residue was purified on column chromatography (silica gel, with gradient elution with n-heptane/EtOAc) to give 450 mg (58%) of 4-(2,6-dibromo-4-nitro-3-trifluoromethylphenoxy)-2-isopropylanisole.

reactant | bis(3-isopropyl-4-methoxyphenyl)iodonium tetrafluroborate | 2.3 mmol, 1.2 g | F[B-](F)(F)F.C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
reactant | 2,6-dibromo-3-trifluoromethyl-4-nitrophenol | BrC1=C(C(=CC(=C1C(F)(F)F)[N+](=O)[O-])Br)O | C7H2Br2F3NO3
reactant | Et3N | 3.01 mmol, 304 mg | CCN(CC)CC | C6H15N
reactant | n-heptane EtOAc | CCCCCCC.CCOC(=O)C
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper | 3.01 mmol, 192 mg | [Cu] | Cu
product | 4-(2,6-dibromo-4-nitro-3-trifluoromethylphenoxy)-2-isopropylanisole | 450 mg, 58% | BrC1=C(OC2=CC(=C(C=C2)OC)C(C)C)C(=CC(=C1C(F)(F)F)[N+](=O)[O-])Br | C17H14Br2F3NO4
